US08669234B2
A mixture of 4-bromo-benzene-1,2-diamine (2.4 g) and 2-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester (2.55 g) in ethanol (5 mL) was heated in microwave at 80° C. for 1 hour. Mixture was concentrated and purified by flash column chromatography (silica gel, 20 to 80% ethyl acetate/hexane) to give 2-(6-bromo-1H-benzoimidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (2.6 g, yield 55%). LCMS-ESI−: calc'd for C16H20BrN3O2: 366.25. Found: 365.8 (M+H+).

reactant | 4-bromo-benzene-1,2-diamine | 2.4 g | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
reactant | 2-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.55 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=O | C10H17NO3
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-(6-bromo-1H-benzoimidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.6 g, yield 55% | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC2=C(N1)C=C(C=C2)Br | C16H20BrN3O2
